US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-piperonylpropanamide (AIT-0066)
0.500 g (3.31 mmol) of piperonylamine was placed into a 10 ml round bottom flask with a magnetic stirring bar and heated to 110° C. and 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was added to the stirring amine. The solution was heated for 40 minutes at which time the reaction mixture had solidified. 10 ml of acetonitrile was added to the residue and the solution was stirred for about 20 min. The white precipitate was collected by Buchner vacuum filtration and was washed with acetonitrile and then with ether. This yielded 245 mg of (AIT-0066) as a white solid. Yield: 68%.

reactant | piperonylamine | 3.31 mmol, 0.500 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-piperonylpropanamide | Yield: 68% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCC1=CC=2OCOC2C=C1 | C16H15N5O4
